* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\CSourcesANDVSourcesANDResistors\MixCSource_VSource_R.asc
I1 N001 0 {I}
I2 N002 N001 1
V1 N004 N005 1
R1 N005 0 1
R3 N002 N001 1
R4 N004 N002 1
.op
.step param I 0 1k 100
.backanno
.end
